US04859776
Under a nitrogen atmosphere, 0.27 mL (280 mg, 3.7 mmol) of thiolacetic acid was added to 210 mg (0.93 mmol) of (2S,4S)-4-azido-1-t-butoxycarbonyl-2-methylpyrrolidine. The reaction mixture was stirred at room temperature for approximately four hours and concentrated with a rotary evaporator. The resulting oil was subjected to flash column chromatography using 1:1 ethyl acetate/hexane followed by ethyl acetate as eluant to obtain 190 mg of (2S,4S)-4-acetamido-1-t-butoxycarbonyl-2-methylpyrrolidine (84% yield) as a yellow oil which solidified on standing. Recrystallization of a small sample from hexanes provided a white solid, mp 108-110 degrees C. The material thus obtained was found to be identical to the material obtained by a two-step procedure that provides for the hydrogenation of (2S,4S)-4-azido-1-t-butoxycarbonyl-2-methylpyrrolidine with hydrogen and Pd/C followed by a separate acetylation step utilizing acetic anhydride.

reactant | thiolacetic acid | 3.7 mmol, 0.27 mL, 280 mg | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | (2S,4S)-4-azido-1-t-butoxycarbonyl-2-methylpyrrolidine | 0.93 mmol, 210 mg | N(=[N+]=[N-])[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C | C10H18N4O2
product | (2S,4S)-4-acetamido-1-t-butoxycarbonyl-2-methylpyrrolidine | 190 mg, 84% yield | C(C)(=O)N[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C | C12H22N2O3
